US07342080B2
According to the procedure for preparing FC-1/AM-1, but substituting AM-2 for AM-1, 50 g (41.29 mmol) of FC-1 was combined with 3.64 g (41.29 mmol) of AM-2 to provide FC-1/AM-2, nominal molecular weight=1267.15 g/mol.

reactant | FC-1 | 41.29 mmol, 50 g | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl
reactant | AM-2 | 41.29 mmol, 3.64 g | CC1=CC(=O)C(=C(O1)C(=O)NCC2=CC=C(C=C2)C3=CC=CC=C3)O | C20H17NO4
product | FC-1 AM-2 | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl.CC1=CC(=O)C(=C(O1)C(=O)NCC2=CC=C(C=C2)C3=CC=CC=C3)O | InChI=1S/C21H24ClNO.C20H17NO4.ClH/c1-23-18-11-12-19(23)14-20(13-18)24-21(15-5-3-2-4-6-15)16-7-9-17(22)10-8-16;1-13-11-17(22)18(23)19(25-13)20(24)21-12-14-7-9-16(10-8-14)15-5-3-2-4-6-15;/h2-10,18-21H,11-14H2,1H3;2-11,23H,12H2,1H3,(H,21,24);1H
